US08022062B2
2-Fluoro-4-phenoxy-benzylamine:
Dissolve (2-fluoro-4-phenoxy-benzyl)-carbamic acid tert-butyl ester (2.44 g, 7.72 mmol) in DCM (200 mL). Add trifluoroacetic acid (50 mL) then stir at ambient temperature for 16 h. Evaporate the solvent, dissolve the residue in DCM and wash with 1N aqueous NaOH. Dry over Na2SO4 and concentrate in vacuo. Purify by SCX chromatography to obtain the title compound (557 mg, 33%). MS (ES+) m/z: 201 M+H−NH3)+.

reactant | (2-fluoro-4-phenoxy-benzyl)-carbamic acid tert-butyl ester | 7.72 mmol, 2.44 g | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)OC1=CC=CC=C1)F)=O | C18H20FNO3
reactant | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-4-phenoxy-benzylamine | 557 mg, 33% | FC1=C(CN)C=CC(=C1)OC1=CC=CC=C1 | C13H12FNO
